US07399758B2
Methyl 13-cyclohexyl-6-(carboxy)-5H-indolo[2,1-a][2]benzazepine-10-carboxylate.
Methyl 13-cyclohexyl-6-(methoxycarbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate (308 mg, 0.72 mmol) was dissolved in N,N-dimethylformamide (5 mL) and treated with LiOH (173 mg, 7.2 mmol). The mixture was heated at 50° C. for 4 hr, afterwhich the solvent was removed in vacuo. The residue was dissolved in H2O (5 mL) and the resultant mixture was acidified by the addition of a 10% aqueous HCL solution. A precipitate formed which was collected by filtration and air dried to afford the title compound as a bright yellow solid (290 mg, 97%). ESI-MS m/z [M+1]=415.

reactant | Methyl 13-cyclohexyl-6-(methoxycarbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxylate | 0.72 mmol, 308 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)OC)C=CC=C1)C(=O)OC | C27H27NO4
reactant | LiOH | 7.2 mmol, 173 mg | [Li+].[OH-]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 13-cyclohexyl-6-(carboxy)-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 290 mg, 97% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(=C2)C(=O)O)C=CC=C1)C(=O)OC | C26H25NO4
